US06197970B1
2,4,5-Trimethoxybenzoic acid (500 g) was suspended in dried toluene (2 l) and to the suspension, thionyl chloride (206 ml) and N,N-dimethylformamide (1.0 ml) were added at room temperature, and the mixture was stirred at 80° C. for 1 hour. The reaction mixture was concentrated under reduced pressure. To the resultant residue, n-hexane was added and through co-boiling the mixture, 2,4,5-trimethoxybenzoyl chloride was obtained. To the resultant compound, 2-amino-4-methoxycarbonyl-1,3-thiazole (372.7 g) and 1,2-dichloroethane (4.5 l) were added and the mixture was refluxed for 6 hours. After completion of reaction, the reaction mixture was allowed to cool. Crystals so precipitated were collected by filtration, washed with 1,2-dichloroethane, and air-dried. The crystals were suspended in water (8 l) and to the suspension, ice (2 kg) was added. While cooling, a solution of sodium hydroxide (94 g) in water (850 ml) was added thereto to thereby adjust the pH of the suspension at about 7.5. Subsequently, the mixture was stirred for 3 hours at room temperature. Crystals so precipitated were collected by filtration, washed with water, and air-dried to thereby obtain the title compound (702.7 g).

reactant | 2,4,5-Trimethoxybenzoic acid | 500 g | COC1=C(C(=O)O)C=C(C(=C1)OC)OC | C10H12O5
reactant | thionyl chloride | 206 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | toluene | 2 l | C1(=CC=CC=C1)C | C7H8
product | 2,4,5-trimethoxybenzoyl chloride | COC1=C(C(=O)Cl)C=C(C(=C1)OC)OC | C10H11ClO4
